US04853138
3-[N,N-dimethyl-(2-butyl)hexadecylammonio]-2-hydroxy-1-propanesulfonate
A 1-L round bottom flask (equipped with a magnetic stirrer and reflux condenser) was charged with 20 g (61 mmol) of N,N-dimethyl-(2-butyl)hexadecylamine, 20 g (100 mmol) of sodium 3-chloro-2-hydroxy-1-propanesulfonate, 140 mL isopropanol, 50 mL of water, and 0.6 g (8 mmol) of 50% sodium hydroxide. The mixture was stirred at reflux. The progress of the reaction was followed using a Waters Associates C-18 μ-Bondapak reverse-phase column, 1.5 mL/min of a 10:1 isopropanol:water as solvent and a refractive index detector. Total reflux time was 56 hours. The reaction mixture was extracted with chloroform (200 mL). The organic layer was concentrated in vacuum to give a white solid which was taken up in 600 mL of a 1:1 isopropanol:water mixture and washed with petroleum ether (2 times using 200 mL of petroleum ether).

reactant | N,N-dimethyl-(2-butyl)hexadecylamine | 61 mmol, 20 g | CN(C)CCCCCCCCCCCCCCCCC(C)CC | C22H47N
reactant | sodium 3-chloro-2-hydroxy-1-propanesulfonate | 100 mmol, 20 g | ClCC(CS(=O)(=O)[O-])O.[Na+]
reactant | sodium hydroxide | 8 mmol, 0.6 g | [OH-].[Na+]
solvent | water | O | H2O
solvent | isopropanol | 600 mL | C(C)(C)O | C3H8O
solvent | water | 50 mL | O | H2O
solvent | isopropanol | 140 mL | C(C)(C)O | C3H8O
product | 3-[N,N-dimethyl-(2-butyl)hexadecylammonio]-2-hydroxy-1-propanesulfonate | C[N+](C)(CC(CS(=O)(=O)[O-])O)CCCCCCCCCCCCCCCCC(C)CC | C25H53NO4S
